* SPICE NETLIST
***************************************

.SUBCKT mimcap_g13 plus minus
.ENDS
***************************************
.SUBCKT spiral_inductor_lvs pos neg
.ENDS
***************************************
.SUBCKT Mux21 VDD A Y B ground S
** N=7 EP=6 IP=0 FDC=6
M0 Y 7 A ground nmos L=1.3e-07 W=6e-07 $X=-1155 $Y=95135 $D=19
M1 B S Y ground nmos L=1.3e-07 W=6e-07 $X=-645 $Y=95135 $D=19
M2 7 S ground ground nmos L=1.3e-07 W=6e-07 $X=835 $Y=95135 $D=19
M3 Y S A VDD pmos L=1.3e-07 W=1.35e-06 $X=-1165 $Y=108725 $D=25
M4 B 7 Y VDD pmos L=1.3e-07 W=1.35e-06 $X=-655 $Y=108725 $D=25
M5 7 S VDD VDD pmos L=1.3e-07 W=1.35e-06 $X=825 $Y=108725 $D=25
.ENDS
***************************************
.SUBCKT Mux41 ground VDD IN0 IN1 OUT1 S1 IN2 IN3 S0
** N=11 EP=9 IP=18 FDC=18
X0 VDD IN0 5 IN1 ground S0 Mux21 $T=535 27640 0 0 $X=-1725 $Y=120805
X1 VDD 5 OUT1 8 ground S1 Mux21 $T=4340 27640 0 0 $X=2080 $Y=120805
X2 VDD IN2 8 IN3 ground S0 Mux21 $T=8145 27640 0 0 $X=5885 $Y=120805
.ENDS
***************************************
